US04694011
604 mg of 3-(3-amino-4-methoxyphenyl)-1-trifluoroacetyl piperidine were added with stirring under an inert atmosphere to 20 ml of methylene chloride and 0.26 ml of ethyl methylthioacetate cooled to -65° C., and then 0.24 ml of tert-butyl hypochlorite were added over 5 minutes. After stirring for an hour, 0.29 ml of triethylamine were added dropwise and the temperature was allowed to return to ambient. 5 ml of aqueous 2 N hydrochloric acid were added and the mixture was stirred for an hour. The decanted organic phases were washed with water, dried and filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica (eluent benzene-ethyl acetate 7-3) to obtain 580 mg of 1,3-dihydro-7-methoxy-3-methylthio-4-[1-trifluoroacetyl)-3-piperidinyl]-2H-indol-2-one which after crystallization from ethanol melted at ≃189° C.

reactant | 3-(3-amino-4-methoxyphenyl)-1-trifluoroacetyl piperidine | 604 mg | NC=1C=C(C=CC1OC)C1CN(CCC1)C(C(F)(F)F)=O | C14H17F3N2O2
reactant | ethyl methylthioacetate | 0.26 ml | CCC(=S)OCC | C5H10OS
reactant | tert-butyl hypochlorite | 0.24 ml | ClOC(C)(C)C | C4H9ClO
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | triethylamine | 0.29 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2H-indol-2-one | N=1C(C=C2C=CC=CC12)=O | C8H5NO
